US06518423B1
4-[[9-(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)purin-6-yl]-2-hydroxymethyl-3-butyne-1,2-diol
8-(6-Iodopurin-9-ylmethyl)-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine was treated by the same method as the one of Example 9 to thereby give 8-(6-iodopurin-9-ylmethyl)-10H-pyrazino[2,3-b][1,4]benzothiazine. Next, this product was treated with bis(tert-butyldimethylsiloxymethyl)-2-propyn-1-ol by the same method as the one of Example 1417. The compound thus obtained was further treated with tetrabutylammonium fluoride in accordance with the method of Example 1386-3 to thereby give the title compound.

reactant | 8-(6-Iodopurin-9-ylmethyl)-10-methoxymethyl-10H-pyrazino[2,3-b][1,4]benzothiazine | IC1=C2N=CN(C2=NC=N1)CC=1C=CC2=C(N(C3=C(S2)N=CC=N3)COC)C1 | C18H14IN7OS
reactant | 8-(6-iodopurin-9-ylmethyl)-10H-pyrazino[2,3-b][1,4]benzothiazine | IC1=C2N=CN(C2=NC=N1)CC=1C=CC2=C(NC3=C(S2)N=CC=N3)C1 | C16H10IN7S
reactant | bis(tert-butyldimethylsiloxymethyl)-2-propyn-1-ol | O([Si](C)(C)C(C)(C)C)CC(C#C)(O)CO[Si](C)(C)C(C)(C)C | C17H36O3Si2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | [9-(10H-Pyrazino[2,3-b][1,4]benzothiazin-8-ylmethyl)purin-6-yl]-2-hydroxymethyl-3-butyne-1,2-diol | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CN3C2=NC=NC(=C2N=C3)C(C(C#C)(O)CO)O | C21H17N7O3S
